US07470710B2
Description 29: (RS)-1-(2-Benzothiazol-2-ylmethylpiperidin-1-yl)-2,2,2-trifluoro-ethanone
[1-(2,2,2-Trifluoroethanoyl)piperidin-2-yl] acetic acid ethyl ester, D28 (1.34 g) and 2-aminothiophenol (1.50 g) were suspended in polyphosphoric acid (30 ml) and heated to 90° C. for 2 h with vigorous stirring. After cooling, the reaction mixture was poured into iced water and stirred vigorously for 1 h. The aqueous solution was then extracted several times with ethyl acetate. After drying (MgSO4), the solvent was removed in vacuo and the residue chromatographed (silica gel) to afford the title compound as an oil (1.2 g).

reactant | [1-(2,2,2-Trifluoroethanoyl)piperidin-2-yl] acetic acid ethyl ester | C(C)OC(CC1N(CCCC1)C(C(F)(F)F)=O)=O | C11H16F3NO3
reactant | 2-aminothiophenol | 1.50 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | water | O | H2O
product | (RS)-1-(2-Benzothiazol-2-ylmethylpiperidin-1-yl)-2,2,2-trifluoro-ethanone | 1.2 g | S1C(=NC2=C1C=CC=C2)CC2N(CCCC2)C(C(F)(F)F)=O | C15H15F3N2OS
